US04193921
A solution of 0.54 g of (20S)-1α,3β-diacetoxy-21-hydroxy-20-methyl-pregn-5-ene and 0.825 g of carbon tetrabromide in 10 ml. of ether was treated with 0.625 g of triphenylphosphine and the mixture was left at room temperature for 16 hours. After dilution with ether, insoluble material was filtered off. The filtrate was concentrated in vacuo and the residue was chromatographed on 15 g of silica gel using hexane/ether (9:1) for the elution. There was obtained 0.55 g of uniform (20S)-21-bromo-1α,3β-diacetoxy-20-methyl-pregn-5-ene in the form of a colourless powder of melting point 75°-76° C.; [α]D =-13.8° (c=0.5 in chloroform).

reactant | (20S)-1α,3β-diacetoxy-21-hydroxy-20-methyl-pregn-5-ene | 0.54 g | C(C)(=O)O[C@H]1C[C@@H](CC2=CC[C@H]3[C@@H]4CC[C@H]([C@@H](CO)C)[C@]4(CC[C@@H]3[C@@]12C)C)OC(C)=O | C26H40O5
reactant | carbon tetrabromide | 0.825 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 0.625 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | ether | CCOCC | C4H10O
product | (20S)-21-bromo-1α,3β-diacetoxy-20-methyl-pregn-5-ene | 0.55 g | BrC[C@H]([C@H]1CC[C@H]2[C@@H]3CC=C4C[C@H](C[C@@H]([C@]4(C)[C@H]3CC[C@]12C)OC(C)=O)OC(C)=O)C | C26H39BrO4
